US07691898B2
(3) -[5-(4-Ethylbenzyl)-2-hydroxyphenyl]ethylphosphonic acid (compound 34)
To a solution of 2-[5-(4-Ethylbenzyl)-2-hydroxyphenyl]ethylphosphonic acid diethylester (0.50 g) in ethanol (5.0 mL) was added 6N—HCl (5.0 mL), and the reaction mixture was refluxed for 24 hr. Evaporation and crystallization from ethyl acetate-n-hexane gave the title compound (0.40 g) as a colorless crystal.

reactant | 2-[5-(4-Ethylbenzyl)-2-hydroxyphenyl]ethylphosphonic acid diethylester | 0.50 g | C(C)OP(OCC)(=O)CCC1=C(C=CC(=C1)CC1=CC=C(C=C1)CC)O | C21H29O4P
reactant | HCl | 5.0 mL | Cl | ClH
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
product | [5-(4-Ethylbenzyl)-2-hydroxyphenyl]ethylphosphonic acid | 0.40 g | C(C)C1=CC=C(CC=2C=CC(=C(C2)CCP(O)(O)=O)O)C=C1 | C17H21O4P
